US04255436
15.8 g (0.1 mol) of 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime and 8.5 g. (0.15 mol) of methyl isocyanate were dissolved in 100 ml. of anhydrous dichloromethane. After a few drops of triethylamine were added to this solution, the mixture warmed to 40°-45° C. The mixture was warmed to 50°-60° C. for a short time and then the solvent was distilled off under vacuum. The residue was dissolved in 50 ml. of hot ethyl acetate, treated with carbon and filtered. The hot filtrate was concentrated to 20-30 ml. and treated with 20-30 ml. of hexane. The precipitated crystals were filtered off under vacuum, washed with ether and dried to yield 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 123°-125° C.

reactant | 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime | 0.1 mol, 15.8 g | N(O)=C1SC(C(=N1)C)(C)C | C6H10N2OS
reactant | methyl isocyanate | 0.15 mol | CN=C=O | C2H3NO
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)C)(C)C | C8H13N3O2S
